US05389640
α-Methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol
Using the general method of Example 45, 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (20 g; 89 mmol) was reacted with acetaldehyde to provide the desired product. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 89 mmol, 20 g | CC(CN1C=NC=2C=NC=3C=CC=CC3C21)C | C14H15N3
reactant | acetaldehyde | C(C)=O | C2H4O
product | α-Methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol | CC(O)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C16H19N3O
